US08895761B2
To a mixture of potassium tert-butoxide (28.5 g, 0.254 mol) in tetrahydrofuran (200 ml) cooled to 0° C., is added a solution of 2-(1,1-dimethyl-2-oxopropoxy)propionic acid methyl ester (24 g, 0.127 mol) in tetrahydrofuran (50 ml). The reaction mixture is stirred at 0° C. for 3 hours. The reaction mixture is quenched with ice cold water, and the aqueous phase is extracted with diethyl ether (3×200 ml). The organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 2,2,6-trimethylpyran-3,5-dione (7.5 g) as a white solid.

reactant | potassium tert-butoxide | 0.254 mol, 28.5 g | CC(C)([O-])C.[K+]
reactant | 2-(1,1-dimethyl-2-oxopropoxy)propionic acid methyl ester | 0.127 mol, 24 g | COC(C(C)OC(C(C)=O)(C)C)=O | C9H16O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2,6-trimethylpyran-3,5-dione | 7.5 g | CC1(OC(C(CC1=O)=O)C)C | C8H12O3
